US07135475B2
3-Cyclopropylmethyl-1-(2-fluorobenzyl)-8-[4-(4-(S)-hydroxymethyl-2,5-dioxo-imidazolidin-1-yl)-benzyl]-3,7-dihydro-purine-2,6-dione
8-[4-(4-tert-Butoxymethyl-2,5-dioxo-imidazolidin-1-yl)-benzyl]-3-cyclopropylmethyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione was treated with trifluoroacetic acid (2 mL). After stirring at room temperature for 2 h, the reaction was concentrated and the residue was purified by reverse phase HPLC. LCMS, m/z(M+H)=533.12.

reactant | 8-[4-(4-tert-Butoxymethyl-2,5-dioxo-imidazolidin-1-yl)-benzyl]-3-cyclopropylmethyl-1-(2-fluorobenzyl)-3,7-dihydro-purine-2,6-dione | C(C)(C)(C)OCC1NC(N(C1=O)C1=CC=C(CC2=NC=3N(C(N(C(C3N2)=O)CC2=C(C=CC=C2)F)=O)CC2CC2)C=C1)=O | C31H33FN6O5
reactant | trifluoroacetic acid | 2 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 3-Cyclopropylmethyl-1-(2-fluorobenzyl)-8-[4-(4-(S)-hydroxymethyl-2,5-dioxo-imidazolidin-1-yl)-benzyl]-3,7-dihydro-purine-2,6-dione | C1(CC1)CN1C(N(C(C=2NC(=NC12)CC1=CC=C(C=C1)N1C(N[C@H](C1=O)CO)=O)=O)CC1=C(C=CC=C1)F)=O | C27H25FN6O5
